US07781436B2
[4-(2-Methoxy-phenyl)-piperidin-1-yl]-(1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-10-yl)-methanone hydrochloride
A mixture of 0.085 g (0.17 mmol) 10-[4-(2-methoxy-phenyl)-piperidine-1-carbonyl]-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester and 1.4 ml of a 1.25 M solution of hydrochloric acid (1.7 mmol) in methanol was stirred for 15 min at 50° C. The reaction mixture was concentrated in vacuo to give the title compound (0.072 g, 97%) as a light yellow solid.

reactant | 10-[4-(2-methoxy-phenyl)-piperidine-1-carbonyl]-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.17 mmol, 0.085 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=CC=CC3C2C(=O)N2CCC(CC2)C2=C(C=CC=C2)OC)CC1 | C29H35N3O4
reactant | hydrochloric acid | 1.7 mmol | Cl | ClH
solvent | methanol | CO | CH4O
product | [4-(2-Methoxy-phenyl)-piperidin-1-yl]-(1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-10-yl)-methanone hydrochloride | 0.072 g, 97% | Cl.COC1=C(C=CC=C1)C1CCN(CC1)C(=O)C1=C2N(C=3C=CC=CC13)CCNC2 | InChI=1S/C24H27N3O2.ClH/c1-29-22-9-5-3-6-18(22)17-10-13-26(14-11-17)24(28)23-19-7-2-4-8-20(19)27-15-12-25-16-21(23)27;/h2-9,17,25H,10-16H2,1H3;1H
